*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

******************************************
* input voltage source
Vs 1 0 0 sin(0 17.55 50)

*Envelope detector
Da1 1 2 Default
Ra1 2 0 1k
Ca1 2 0 1000u

*Voltage regulator
Rb1 2 3 3k
Db1 3 4 Default
Db2 4 5 Default
Db3 5 6 Default
Db4 6 7 Default
Db5 7 8 Default
Db6 8 9 Default
Db7 9 10 Default
Db8 10 11 Default
Db9 11 12 Default
Db10 12 13 Default
Db11 13 14 Default
Db12 14 15 Default
Db13 15 16 Default
Db14 16 17 Default
Db15 17 18 Default
Db16 18 19 Default
Db17 19 20 Default
Db18 20 0 Default

.model Default D
.op
.end

.control

*makes plots in color
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


******************************************
* analise no tempo
tran 1e-5 0.3 0.1


print mean(V(3))
print mean(-V(3)+12)
print {maximum(v(3)) - minimum (v(3))}
print 1./((mean(-V(3)+12) + maximum(v(3)) - minimum (v(3)) + 0.000001)*(0.1*19 + 4 + 1000))
*plot  v(3) 11 12 13


******************************************
hardcopy t3out.ps v(3)
hardcopy t3env.ps v(2)



.endc

